US06008220
(±)3-Methyl-5-oxo-5-[4-(4-phenyl-piperidin-1-yl)-phenyl]-pentanoic acid
A stirred mixture of 4-phenylpiperidine (0.161 g, 1.00 mmol), (±)3-methyl-5-(4-chloro-phenyl)-pentanoic acid (0.241 g, 1.00 mol), and potassium carbonate (0.276 g, 2.00 mol) in dry dimethyl sulfoxide was heated in a sand bath (160° C.) under nitrogen for 15 hours. The mixture was cooled and diluted with water. The aqueous solution was filtered, and the filtrate was acidified with concentrated hydrochloric acid to pH=6. A brown gum formed. The liquid was decanted, and the residue was chromatographed on silica gel (38 g, 230-400 mesh) eluting with dichloromethane-methanol (20:1, 15×40 mL). Fractions containing product were combined and rotary evaporated to give a brown glass. The glass was crystallized from methanol after a hot gravity filtration to give the title compound as a tan solid; yield 0.0360 g (10%, mp=134-135° C.).

reactant | 4-phenylpiperidine | 1.00 mmol, 0.161 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | (±)3-methyl-5-(4-chloro-phenyl)-pentanoic acid | 1.00 mol, 0.241 g | CC(CC(=O)O)CCC1=CC=C(C=C1)Cl | C12H15ClO2
reactant | potassium carbonate | 2.00 mol, 0.276 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (±)3-Methyl-5-oxo-5-[4-(4-phenyl-piperidin-1-yl)-phenyl]-pentanoic acid | CC(CC(=O)O)CC(C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1)=O | C23H27NO3
